US08377937B2
Neat POCl3 (463.9 ml, 5067 mmol) was added slowly by addition funnel to a 0° C. solution of (R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol (152.2 g, 1013 mmol) in DCE (1.2 L). After the addition was complete, the reaction mixture was warmed to room temperature, then heated to reflux and stirred for 70 minutes. The reaction was complete as determined by HPLC. The reaction mixture was cooled to room temperature, and the excess POCl3 was quenched in 4 portions as follows: Reaction mixture transferred to separatory funnel and dripped into a beaker containing ice and saturated NaHCO3 solution cooled in an ice bath. Once the addition of each portion of the reaction mixture was completed, the quenched mixture was stirred for 30 minutes to ensure complete destruction of POCl3 prior to transfer to separatory funnel. The mixture was transferred to the separatory funnel and extracted twice with DCM. The combined extracts were dried (Na2SO4), filtered, and concentrated. The crude was purified on silica gel as follows: silica gel (1 kg) was slurried in 9:1 hexane:ethyl acetate onto a 3 L fritted funnel, silica settled under vacuum, topped with sand. The crude was loaded with a DCM/hexane mixture, and the compound was eluted using 1 L sidearm flasks under vacuum. High Rf byproducts eluted first, then (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (104.4 g, 61.09% yield) as an oil.

reactant | POCl3 | 5067 mmol, 463.9 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | (R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol | 1013 mmol, 152.2 g | C[C@@H]1CCC=2N=CN=C(C21)O | C8H10N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 1.2 L | ClCCCl | C2H4Cl2
product | (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 104.4 g, 61.09% yield | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
